US08012986B2
2-(4-Iodo-imidazol-1-yl)-4-methyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine
The title compound was prepared from 2-chloro-4-methyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine (example A.4) (0.27 g, 1.0 mmol) and commercially available 4-iodo-imidazole (0.21 g, 1.1 mmol) according to the general procedure Ia. Obtained as a light brown solid (0.35 g, 81%). MS (ISP) 432.1 [(M+H)+]; mp 193.5° C.

reactant | 2-chloro-4-methyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | 1.0 mmol, 0.27 g | ClC1=NC(=CC(=N1)C)C=1C=NC(=CC1)C(F)(F)F | C11H7ClF3N3
reactant | 4-iodo-imidazole | 1.1 mmol, 0.21 g | IC=1N=CNC1 | C3H3IN2
product | 2-(4-Iodo-imidazol-1-yl)-4-methyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | IC=1N=CN(C1)C1=NC(=CC(=N1)C)C=1C=NC(=CC1)C(F)(F)F | C14H9F3IN5
